US04277394
(I) Production of BOC-(D)-Met-Gly-OEt
In 100 ml of THF are dissolved 10.0 g of BOC-(D)-Met-OH and 7.9 g of HONB, followed by cooling at 0° C. and adding 9.0 g of DCC, and the mixture is stirred at 0° C. for 6 hours. Insoluble matters are filtered out, and 5.9 g of H-Gly-OEt·HCl salt and 5.6 ml of TEA are added to the filtrate, which is then stirred overnight at room temperature. The THF is distilled off and the residue is extracted with 100 ml of AcOEt, followed by washing with water and drying over anhydrous sodium sulphate. The AcOEt is distilled off and the residue is crystallized with petroleum ether. Recrystallization from AcOEt-petroleum ether yields 9.8 g of the desired product, m.p. 55°-56° C., Rf1 =0.70, [α]D21 +2.5° (c=0.67, DMF)

reactant | BOC-(D)-Met-OH | 10.0 g | N([C@H](CCSC)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4S
reactant | HONB | 7.9 g | C1C2C=CC1C3C2C(=O)N(C3=O)O | C9H9NO3
reactant | DCC | 9.0 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | THF | 100 ml | C1CCOC1 | C4H8O
product | BOC-(D)-Met-Gly-OEt | 9.8 g | N([C@H](CCSC)C(=O)NCC(=O)OCC)C(=O)OC(C)(C)C | C14H26N2O5S
